US07642264B2
N-tert-Butyl-3-{1-[6-(3-chloro-phenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide was prepared from 4-(3-chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine (example E.72) (0.68 g, 1.5 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.46 g, 1.8 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.2 g) which was subsequently deprotected.

reactant | 4-(3-chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | 1.5 mmol, 0.68 g | ClC=1C=C(C=CC1)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)I | C14H7ClF3IN4
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 1.8 mmol, 0.46 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{1-[6-(3-chloro-phenyl)-4-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)Cl | C24H21ClF3N5O2S
